US03947445
Reduction of 6.1 g (0.019 mole) of 2,5-dibenzyl-2,5-diazabicyclo[2.2.2]octane-3,6-dione by the procedure employed to prepare 8-benzyl-3-methyl-3,8-diazabicyclo[3.2.1]octane as related under Example 5 gave 4.9 g (88%) of 2,5-dibenzyl-2,5-diazabicyclo[2.2.2]octane as a colorless oil.

reactant | 2,5-dibenzyl-2,5-diazabicyclo[2.2.2]octane-3,6-dione | 0.019 mole, 6.1 g | C(C1=CC=CC=C1)N1C2C(N(C(C1=O)CC2)CC2=CC=CC=C2)=O | C20H20N2O2
reactant | 8-benzyl-3-methyl-3,8-diazabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1C2CN(CC1CC2)C | C14H20N2
product | 2,5-dibenzyl-2,5-diazabicyclo[2.2.2]octane | 4.9 g, 88% | C(C1=CC=CC=C1)N1C2CN(C(C1)CC2)CC2=CC=CC=C2 | C20H24N2
